US07799806B2
Step 1: 2-Bromomethyl-4-methoxy-benzoic acid methyl ester
To a solution of 4-methoxy-2-methyl-benzoic acid methyl ester (1.47 g, 8.16 mmol, 1.0 equiv; commercially available) in CCl4 (15 mL) was added N-bromosuccinimide (1.60 g, 8.97 mmol, 1.1 equiv) and dibenzoyl peroxide (0.198 g, 0.45 mmol, 0.05 equiv). The mixture was heated to reflux for 1.5 h, when TLC indicated that still some starling material was left. Therefore, additional N-bromosuccinimide (0.16 g, 0.90 mmol, 0.11 equiv) and dibenzoyl peroxide (0.080 g, 0.41 mmol, 0.18 equiv) was added and heating continued for 1 h. The reaction mixture was cooled down, poured on crashed ice, extracted with ethyl acetate, the combined organic phases washed with a sat. solution of NaCl, dried over Na2SO4 and concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with hexane/ethyl acetate (95:5) affording 1.43 g (68%) of the title compound as yellow crystals. 1H NMR (300 MHz, CDCl3): δ 3.87 (s, 3H), 3.91 (s, 3H), 4.97 (s, 2H), 6.86 (dd, J=8.7 Hz, J=2.7 Hz, 1H), 6.97 (d, J=2.7 Hz, 1H), 7.99 (d, J=8.7 Hz, 1H).

reactant | 4-methoxy-2-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)C)=O | C10H12O3
reactant | N-bromosuccinimide | 8.97 mmol, 1.60 g, 1.1 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.45 mmol, 0.198 g, 0.05 equiv | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.90 mmol, 0.16 g, 0.11 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 0.41 mmol, 0.080 g, 0.18 equiv | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethyl-4-methoxy-benzoic acid methyl ester | 1.43 g, 68% | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
